US09388189B2
a) N-(5-Bromo-2-ethoxypyridin-3-yl)-4-hydroxybenzenesulfonamide
N-(5-Bromo-2-chloropyridin-3-yl)-4-hydroxybenzenesulfonamide (264 mg, 0.55 mmol) and sodium ethoxide (21% in ethanol, 10 ml, 27 mmol) were stirred at 120° C. for 90 min under microwave conditions. The reaction mixture was poured into sodium bicarbonate saturated solution, neutralized with concentrated chlorhydric acid and extracted with ethyl acetate (×3). The organic phase was dried over magnesium sulphate, filtered and the solvent evaporated under reduced pressure to obtain 211 mg (94% yield, 91% purity) of the title compound, which was used in the next synthetic step without further purification.

reactant | N-(5-Bromo-2-chloropyridin-3-yl)-4-hydroxybenzenesulfonamide | 0.55 mmol, 264 mg | BrC=1C=C(C(=NC1)Cl)NS(=O)(=O)C1=CC=C(C=C1)O | C11H8BrClN2O3S
reactant | sodium ethoxide | 27 mmol, 10 ml | [O-]CC.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chlorhydric acid | Cl | ClH
product | N-(5-Bromo-2-ethoxypyridin-3-yl)-4-hydroxybenzenesulfonamide | 94% yield | BrC=1C=C(C(=NC1)OCC)NS(=O)(=O)C1=CC=C(C=C1)O | C13H13BrN2O4S
